US05250527
Thionyl chloride (0.73 ml) in chloroform (5 ml, alumina dried) was added dropwise to a stirred and cooled solution of 2-hydroxy-3-methyl-4-morpholino-5-fluoro pyridine (0.75 g) in chloroform (15 ml). After 2 hours at room temperature the solution was reduced in volume and ether added. The precipitate was filtered off, washed and dried to give 2-chloromethyl-3-methyl-4-morpholino-5-fluoropyridine hydrochloride (0.6 g) m.p.148°-156°.

reactant | Thionyl chloride | 0.73 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxy-3-methyl-4-morpholino-5-fluoro pyridine | 0.75 g | OC1=NC=C(C(=C1C)N1CCOCC1)F | C10H13FN2O2
reactant | ether | CCOCC | C4H10O
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-methyl-4-morpholino-5-fluoropyridine hydrochloride | 0.6 g | Cl.ClCC1=NC=C(C(=C1C)N1CCOCC1)F | InChI=1S/C11H14ClFN2O.ClH/c1-8-10(6-12)14-7-9(13)11(8)15-2-4-16-5-3-15;/h7H,2-6H2,1H3;1H
